US05977178
2-((2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-phenylpropionylamino)-1,1-dimethylethyl acetate (426 mg, 1.1 mmol) was dissolved in dichloromethane (2 ml) and cooled to 0° C. Trifluoroacetic acid (2 ml) was added and the reaction mixture was stirred for 15 min at 0° C. The solvent was removed in vacuo at 20° C. The residue was dissolved in dichloromethane (50 ml) and the solvent was removed in vacuo. This latter procedure was repeated two times. The crude product was purified by flash chromatography on silica (45 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 312 mg of 1,1-dimethyl-2-((2R)-2-methylamino-3-phenylpropionylamino)ethyl acetate.

reactant | 2-((2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-phenylpropionylamino)-1,1-dimethylethyl acetate | 1.1 mmol, 426 mg | C(C)(=O)OC(CNC([C@@H](CC1=CC=CC=C1)N(C)C(=O)OC(C)(C)C)=O)(C)C | C21H32N2O5
reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1,1-dimethyl-2-((2R)-2-methylamino-3-phenylpropionylamino)ethyl acetate | 312 mg | C(C)(=O)OC(CNC([C@@H](CC1=CC=CC=C1)NC)=O)(C)C | C16H24N2O3
